US05454976
Step 2: (S)-3-Fluoroheptanol
To a 1 l flask were added 154 ml of THF and 2.3 g of lithium aluminum hydride under a nitrogen atmosphere, and the solution was kept at 5° C. To the solution was added dropwise a solution of 9 g of methyl 3-fluoroheptanoate in 43 ml of THF over 2 hours at 5° C. After the addition, the temperature was gradually elevated up to room temperature, and the mixture was stirred for 2 hours After cooling to 5° C., 2 3 g of water, 2.3 g of a 15% sodium hydride aqueous solution, and 6.9 g of water were added thereto dropwise in this order, followed by stirring at that temperature for 15 minutes. The thus formed precipitate was removed by filtration, and the filtrate was subjected to liquid-liquid separation. The organic layer was dehydrated over potassium carbonate and the solvent was removed by distillation at 30° C. or less to obtain 8.0 g (yield=98.0%) of the titled compound. NMR (ppm): 0.92 (3H, t, J=7.2 Hz), 1.3-1.9 (8H, m), 3.81 (2H, m), 4.70 (1H, m)

reactant | lithium aluminum hydride | 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-fluoroheptanoate | 9 g | FC(CC(=O)OC)CCCC | C8H15FO2
reactant | water | O | H2O
reactant | sodium hydride | [H-].[Na+]
reactant | water | 6.9 g | O | H2O
solvent | THF | 43 ml | C1CCOC1 | C4H8O
solvent | THF | 154 ml | C1CCOC1 | C4H8O
product | (S)-3-Fluoroheptanol | 8.0 g, yield=98.0% | F[C@H](CCO)CCCC | C7H15FO
